US08791107B2
PREPARATION x33: 4-(5-bromo-2-chloropyrimidin-4-yl)-N-(1-(4-chlorophenyl)cyclopropyl)morpholine-3-carboxamide
The title compound was prepared in a manner similar to PREPARATION x31 using 4-(5-bromo-2-chloropyrimidin-4-yl)morpholine-3-carboxylic acid (PREPARATION x30, 0.244 g, 0.756 mmol), EDC (0.174 g, 0.908 mmol), HOBt (0.123 g, 0.908 mmol), N,N-diisopropylethylamine (0.138 mL, 0.794 mmol), and 1-(4-chlorophenyl)cyclopropanamine, HCl (0.185 g, 0.908 mmol) in THF (8 mL). ESI-MS m/z [M+H]+ calc'd for C18H17BrCl2N4O2, 470.99. found 471.3.

reactant | 4-(5-bromo-2-chloropyrimidin-4-yl)morpholine-3-carboxylic acid | 0.756 mmol, 0.244 g | BrC=1C(=NC(=NC1)Cl)N1C(COCC1)C(=O)O | C9H9BrClN3O3
reactant | EDC | 0.908 mmol, 0.174 g
reactant | HOBt | 0.908 mmol, 0.123 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-diisopropylethylamine | 0.794 mmol, 0.138 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 4-(5-bromo-2-chloropyrimidin-4-yl)-N-(1-(4-chlorophenyl)cyclopropyl)morpholine-3-carboxamide | BrC=1C(=NC(=NC1)Cl)N1C(COCC1)C(=O)NC1(CC1)C1=CC=C(C=C1)Cl | C18H17BrCl2N4O2
